US06660744B1
A mixture of 4-bromobenzophenone (3.02 g, 0.0116 mol) and methoxylamine hydrochloride (4.83 g, 0.0578 mol) was heated in a mixture of ethanol (90 mL) and pyridine (18 mL) at reflux for 2 hours under an atmosphere of nitrogen. The solvents were removed under reduced pressure and the residue was partitioned between water (150 mL) and dichloromethane (100 mL). The water phase was further extracted twice with dichloromethane (80 mL each) and the combined organic extracts were dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel using ethyl acetate/n-heptane (2:98) as mobile phase to yield (4-bromophenyl)(phenyl)methanone O-methyloxime as a colorless oil (3.13 g, 0.0108 mol): 1H NMR (DMSO-d6, 400 MHz) 7.67 (d, 1H), 7.59 (d, 1H), 7.48 (m, 4H), 7.32 (m, 1H), 7.26 (m, 2H), 3.93 (s, 3H) TLC (ethyl acetate/heptane 1:9) Rf 0.44.

reactant | 4-bromobenzophenone | 0.0116 mol, 3.02 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | methoxylamine hydrochloride | 0.0578 mol, 4.83 g | Cl.O(C)N
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
product | (4-bromophenyl)(phenyl)methanone O-methyloxime | 0.0108 mol, 3.13 g | CON=C(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C14H12BrNO
